US08030337B2
N-[2-(2-Mercapto-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) and potassium O-ethyl dithiocarbonate (65.1 mg, 0.406 mmol) were heated under reflux in pyridine (1 mL) for 2 hr. The reaction solution was diluted with ethyl acetate, washed with 1N hydrochloric acid and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) to give the title compound (64.8 mg, yield 64%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | potassium O-ethyl dithiocarbonate | 0.406 mmol, 65.1 mg | C([S-])(OCC)=S.[K+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-Mercapto-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 64.8 mg, yield 64% | SC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C14H16N2O2S
